data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5349,"O=S(=O)(C(F)(F)F)[O:1][S:2](=O)(OCCCO)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4957,"CC(=O)[O:1][C:2](C)(O[N+]1(C)C2C=CCC1CC2)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9416,"CO[C:1]1=[CH:2][CH:3]=[CH:4]C([N+](=O)[O-])=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,8684,"CC1=C[CH:1]=[C:2](C)O1.C[CH+:3]C|((2, 1), 3)"
train,pmechdb_split_0,0,3742,"C[P+:1](C)(C)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,9549,"C1CC[C:1](=[O:2])C1.COC1=CC2=C(C=C1)C(CC(=O)OC(C)C)[NH:3]CC2.O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9759,"CCC1CC[C+:1](C)C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5699,"C1CC[C:1](=[O:2])CC1.C[Si](C)(C)[C:3]1([Li:4])CC1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1709,"C1=CC=[N:1]C=C1.CC(=O)OI1(OC(C)=O)([O+:2](C(C(OCC2=CC=CC=C2)C(C=CC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)C2(C(=O)OC(C)(C)C)OC3(CCCC3)OC2C(=O)OC(C)(C)C)[H:3])OC(=O)C2=C1C=CC=C2.CC(=O)[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7535,"CO[C:1](O)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2175,"C[Si](C)(C)C[CH:1]=[CH2:2].C[Si](C)(C)[O+:3](C)[I:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,264,"CC(C)[N](C(C)C)[Li:1].CC[Si](CC)(CC)C(C)C=[N:2]C(C)(C)C|(2, 1)"
train,pmechdb_split_0,0,2513,"CC(C)(C)[OH+][Na].CC1=CC=C(S(=O)(=O)N2C=C(C=[N:1][N:2]([Na])[S:3](=O)(=O)C3=CC=C(C)C=C3)C3=C2C=CC=C3)C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7849,"CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:1](CC1=CC2=C(C=CC=C2)C=C1)[H:2].O=C(CCCC=C(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,675,"CC[N+]1=C(C(C2=CC=C(F)C=C2)(C(C2=CC=CC=C2)C(C(=O)NC2=CC=CC=C2)C(=O)C(C)C)[O:1][H:2])SC(CCO)=C1C.CC[N:3](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2246,"C1C[NH:1]CCO1.O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,873,"N#CCC=C=[N-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7932,"COC1=C2C(=CC=C1)C1=CC=CC=C1N2C(CO)C1=CC=CC=C1.O=S(=O)(C(F)(F)F)[O:1][S:2](=O)([N+]1=CC=CC=C1)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3869,"O=C(C1=CC=CC=C1)[CH2:1][Mg:2][Br].[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1335,"CC(C)CC[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3382,"C=C[C:1](SCC)([OH:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7703,"CCCCC1CC(=[O+:1][H:2])C1C1=CC=CC=C1.F[B-](F)(F)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,242,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=CC(Br)=CC=C1C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,6293,"O=S(=O)(O)[O-:1].OCC1CCCC[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1123,"C[O:1][H:2].NCCCC1CCCCC1[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3375,"CC(C)N=[C:1]=[NH+:2]C(C)C.CNC(=O)C(C)N.COC(=O)NC(C)C(=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,634,"C=[C+]C[Si:1](C)(C)C.C=[O:2]|(2, 1)"
train,pmechdb_split_0,0,8307,"CC(O)[C:1](C)([H:2])[CH:3]=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2416,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C)CC(CC(C)C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9886,"CC(C)(C)[OH:1].CN=CC[C+:2](C)C(C)C|(1, 2)"
train,pmechdb_split_0,0,6891,"CC(C)=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9938,"CC(=O)C1=CC2=C(C=C1)C=C[CH:1]=[CH:2]2.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7345,"CC(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])C(=O)C1CCCC2=C(C=CC=C2)C1=O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6880,"CCC(C)O[C:1](CC(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9732,"N[C:1]1=[CH:2]C=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7911,"C[Si-:1](C)(C)(OCCO)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6758,"CC[CH:1](CC)[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4069,"C=C(C)[N+:1]1([H:2])CCCC1.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6512,"CC1=CC=C([C:1](O[Si](C)(C)C)=[O:2])C=C1.C[Si](C)(C)[CH-:3][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3138,"CC(=O)O.CCN1C(CO)CC2(C34CC(CO[I:1]5(OC(C)=O)([O:2]C(C)=O)OC(=O)C6=C5C=CC=C6)N(CC)C3NC3=CC=CC=C34)C3=CC=CC=C3NC12|((1, 2), 2)"
train,pmechdb_split_0,0,1690,"CC1=CC=CC=C1.CC1=C[C:1](C)([H:2])[C:3](C2=CC=CC=C2)=[O+:4]1.O=S(=O)([O-])C(F)(F)F.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3078,"CC(O)C[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2746,"CC1(C)C(=O)[C:1](=[O:2])C(C)(C)N1CC1=CC=CC=C1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4201,"CC(C)[CH2][AlH:1][CH2]C(C)C.CC(C)[CH2][Al]([CH2]C(C)C)[O-:2].CCC1CC=[NH+]C2=CC=CC=C21|(2, 1)"
train,pmechdb_split_0,0,9987,"C[CH+:1]C.N#CC1=CC=C2C=C[CH:2]=[CH:3]C2=C1|((2, 3), 1)"
train,pmechdb_split_0,0,1296,"C=CC(C)=O.CC1=C(CCO)S[C:1]([C:2](O)(C(C)C)[H:3])=[N+:4]1CC1=CC=CC=C1.CC[N:5](CC)CC.[Cl-]|(5, 3);((3, 2), 1);((1, 4), 4)"
